US04119710
1-(4'-Amino-3'-fluoro-5'-iodo-phenyl)-2-tert.butylamino-ethanol,
m.p. of the hydrochloride: 207°-209° C. (decomp.), was prepared from 4'-amino-2-tert.butylamino-3'-fluoro-5'-iodo-acetophenone analogous to Example 49.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-2-tert.butylamino-3'-fluoro-5'-iodo-acetophenone | NC1=C(C=C(C=C1I)C(CNC(C)(C)C)=O)F | C12H16FIN2O
product | 1-(4'-Amino-3'-fluoro-5'-iodo-phenyl)-2-tert.butylamino-ethanol | NC1=C(C=C(C=C1I)C(CNC(C)(C)C)O)F | C12H18FIN2O
